US06503933B1
a) N-[(3-chloro-5-trifluoromethyl-2-pyridyl)methyl]benzophenone Imine
To a solution of benzophenone imine (1.67 ml) in dry dichloromethane (25 ml) at 10° C. was added (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride (2.47 g). The solution was stirred at room temperature for 3 hours and then filtered. The filtrate was evaporated to dryness and purified by silica gel chromatography [light petroleumidiethyl ether (4:1)] to give the title product.

reactant | benzophenone imine | 1.67 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride | 2.47 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CN
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-[(3-chloro-5-trifluoromethyl-2-pyridyl)methyl]benzophenone Imine | ClC=1C(=NC=C(C1)C(F)(F)F)CN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H14ClF3N2
